US09024041B2
Intermediate A24: 1-(4-(5-Amino-3-tert-butyl-1H-pyrazol-1-yl)phenyl)-N-methyl methanesulfonamide
To a suspension of 1-(4-aminophenyl)-N-methylmethanesulfonamide (500 mg, 2.50 mmol) in hydrochloric acid (6 M, 10 mL) at 0° C. was added a solution of sodium nitrite (181 mg, 2.62 mmol) in water (3.0 mL) over 5 min. The reaction mixture was maintained at 0° C. for 2.5 hr, was treated with tin(II) chloride (1.33 g, 6.99 mmol) in hydrochloric acid (6M, 15 mL) and was then warmed to RT for 64 hr. The resulting mixture was basified to pH 12 with aq NaOH (6.0 M) and was extracted with EtOAc (2×100 mL). The combined organic extracts were washed with water and then dried and evaporated in vacuo to give a residue that was suspended in ethanol (10 mL) and treated with 4,4-dimethyl-3-oxopentanenitrile (160 mg, 1.3 mmol) and conc hydrochloric acid (12 M, 106 μL, 1.27 mmol). The resulting mixture was heated at reflux for 5 hr and after a further 23 hr at RT was evaporated in vacuo, to remove the ethanol and the resulting aq mixture basified with aq NaOH (2.0 M) and then extracted with DCM (2×30 mL). The combined organic extracts were dried and evaporated in vacuo to afford the title compound, Intermediate A24, as an orange solid (146 mg, 85% purity, 15%); Rt 1.34 min (Method 2); m/z 323 (M+H)+, (ES+). This material was used in subsequent steps without further purification

reactant | 1-(4-aminophenyl)-N-methylmethanesulfonamide | 2.50 mmol, 500 mg | NC1=CC=C(C=C1)CS(=O)(=O)NC | C8H12N2O2S
reactant | sodium nitrite | 2.62 mmol, 181 mg | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 6.99 mmol, 1.33 g | [Sn](Cl)Cl
reactant | NaOH | 6.0 M | [OH-].[Na+]
reactant | 4,4-dimethyl-3-oxopentanenitrile | 1.3 mmol, 160 mg | CC(C(CC#N)=O)(C)C | C7H11NO
solvent | hydrochloric acid | 6 M, 10 mL | Cl | ClH
solvent | water | 3.0 mL | O | H2O
solvent | hydrochloric acid | 6M, 15 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 1.27 mmol, 12 M, 106 μL | Cl | ClH
product | 1-(4-(5-Amino-3-tert-butyl-1H-pyrazol-1-yl)phenyl)-N-methyl methanesulfonamide | NC1=CC(=NN1C1=CC=C(C=C1)CS(=O)(=O)NC)C(C)(C)C | C15H22N4O2S
